US07615556B2
To a solution of (R)-tert-butyl 1-(4-(3,4-dichlorophenyl)piperazin-1-yl)-3,3-dimethyl-1-oxobutan-2-ylcarbamate (crude from above) in dichloromethane (5 mL) was added TFA (5 mL). Upon completion of addition, the resulting solution was allowed to stir at rt. for 2 h. After this time, the solvent was removed by rotary evaporation to provide an oil which was partitioned between dichloromethane and 1 N NaOH. The dichloromethane extract was washed with water, dried over MgSO4 and evaporated to provide (R)-2-amino-1-(4-(3,4-dichlorophenyl)piperazin-1-yl)-3,3-dimethylbutan-1-one as an oil (1.09 g).

reactant | (R)-tert-butyl 1-(4-(3,4-dichlorophenyl)piperazin-1-yl)-3,3-dimethyl-1-oxobutan-2-ylcarbamate | ClC=1C=C(C=CC1Cl)N1CCN(CC1)C([C@@H](C(C)(C)C)NC(OC(C)(C)C)=O)=O | C21H31Cl2N3O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (R)-2-amino-1-(4-(3,4-dichlorophenyl)piperazin-1-yl)-3,3-dimethylbutan-1-one | 1.09 g | N[C@@H](C(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)Cl)C(C)(C)C | C16H23Cl2N3O
